US05166198
b) Diethyl 4-hydroxy-3-(hydroxymethyl)butyl-phosphonate
Diethyl 4-acetoxy-3-(acetoxymethyl)butylphosphonate (4.6 g, 14.18 mmol) was dissolved in hydrochloric acid/ethanol solution (14 ml, 2.2M) and the reaction mixture was stirred at 80° C. for 90 minutes. It was then cooled to 5° C., neutralized with aqueous ammonia solution and diluted with tetrahydrofuran. The resulting ammonium hydrochloride was filtered off, washed with tetrahydrofuran and the combined filtrates concentrated to an oil which was chromatographed on silica gel (eluting with 94:6 CHCl3 :EtOH) to give the title compound (2.1 g, 62%). 1H NMR δH ](CD3)2SO] 1.22 (6H, t, 7=7Hz, (OCH2CH3)2), 1.46 (3H, m, CH2CH) 1.72 (2H, m, PCH2), 3.35 (4H, m, 2xH2OH), 3.5-3.75 (2H, br.s, D2O exchangeable, 2xOH), 3.96 (4H, m, (OCH2CH3)2). Found: C,44.79: H,8.93%. C9H21O5P 0.2 H2O requires: C,44.43; H,8.86.

reactant | Diethyl 4-acetoxy-3-(acetoxymethyl)butylphosphonate | 14.18 mmol, 4.6 g | C(C)(=O)OCC(CCP(OCC)(OCC)=O)COC(C)=O | C13H25O7P
reactant | ammonia | N | H3N
solvent | hydrochloric acid ethanol | 2.2M, 14 ml | Cl.C(C)O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Diethyl 4-hydroxy-3-(hydroxymethyl)butyl-phosphonate | 2.1 g, 62% | OCC(CCP(OCC)(OCC)=O)CO | C9H21O5P
